US09422292B2
A solution of 1-benzyl-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (50 mg, 0.18 mmol) and acetohydrazide (40 mg, 0.53 mmol) in 20 mL of n-butanol was heated to reflux, and stirred for 24 h under N2 atmosphere. The solvent was evaporated in vacuo and the residue was purified by prep-TLC (DCM:MeOH=25:1) to give 6-benzyl-1-methyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-5(6H)-one (20 mg, 38%). 1H NMR (300 MHz, CD3OD): δ 2.36 (s, 3H), 3.77 (d, J=14.1 Hz, 1H), 3.98 (d, J=14.1 Hz, 1H), 4.69 (d, J=15 Hz, 1H), 5.64 (d, J=15 Hz, 1H), 6.77-6.80 (m, 2H), 7.13-7.16 (m, 3H), 7.49-7.62 (m, 3H), 7.82-7.85 (m, 1H). LRMS (M+H)+: 304 m/z.

reactant | 1-benzyl-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 0.18 mmol, 50 mg | C(C1=CC=CC=C1)N1C2=C(NC(CC1=O)=S)C=CC=C2 | C16H14N2OS
reactant | acetohydrazide | 0.53 mmol, 40 mg | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 6-benzyl-1-methyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-5(6H)-one | 20 mg, 38% | C(C1=CC=CC=C1)N1C2=C(N3C(CC1=O)=NN=C3C)C=CC=C2 | C18H16N4O
